US06903216B2
N-(Phenylpyridin-3-ylmethyl)-2-(quinoline-8-sulfonylamino)-benzamide
120 mg of phenylpyridin-3-ylmethylamine (Synthesis 1976, 593) were reacted with 450 mg of 2-(quinoline-8-sulfonylamino)-benzoyl chloride in analogy to example 1 which resulted in 130 mg of an amorphous solid. Rf(EA)=0.29. MS (ES): 495 (M+H)+

reactant | phenylpyridin-3-ylmethylamine | 120 mg | C1(=CC=CC=C1)NCC=1C=NC=CC1 | C12H12N2
reactant | 2-(quinoline-8-sulfonylamino)-benzoyl chloride | 450 mg | N1=CC=CC2=CC=CC(=C12)S(=O)(=O)NC1=C(C(=O)Cl)C=CC=C1 | C16H11ClN2O3S
product | N-(Phenylpyridin-3-ylmethyl)-2-(quinoline-8-sulfonylamino)-benzamide | 130 mg | C1(=CC=CC=C1)C(NC(C1=C(C=CC=C1)NS(=O)(=O)C=1C=CC=C2C=CC=NC12)=O)C=1C=NC=CC1 | C28H22N4O3S
